US04839365
A mixture of 158 mg (0.515 mmol) of 3-bromo-7-bromomethylthieno[2, 3-c]pyridine (i-1), 85 mg (1.1 equivalents) of 2-mercaptobenzimidazole, 284 mg (4 equivalents) of anhydrous K2CO3 and 4 ml of anhydrous DMF was stirred for 1 hr. at room temperature. Water was added to the mixture, and crystals separated out. The crystals collected by filtration were dried, whereby 183 mg (94.5%) of 2-[(3-bromothieno[2, 3-c]pyridin-7-yl)methylthio]benzimidazole (Ia-6) was obtained as an objective compound.

reactant | 3-bromo-7-bromomethylthieno[2, 3-c]pyridine | 0.515 mmol, 158 mg | BrC1=CSC2=C(N=CC=C21)CBr | C8H5Br2NS
reactant | 2-mercaptobenzimidazole | 85 mg, 1.1 equivalents | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | K2CO3 | 284 mg, 4 equivalents | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 2-[(3-bromothieno[2, 3-c]pyridin-7-yl)methylthio]benzimidazole | 183 mg, 94.5% | BrC1=CSC2=C(N=CC=C21)CSC=2NC1=C(N2)C=CC=C1 | C15H10BrN3S2
